US06429315B1
Six grams of 3-chloro-2-(2-aminobutyl)thiophene is dissolved in 10 ml of methylene chloride in a 3-neck round bottomed flask blanketed with an inert atmosphere at 0° C. Triethylamine (6.6 ml) is added in one portion followed by 7.8 g of 4-nitrobenzenesulfonyl chloride which had been previously dissolved in 10 ml of methylene chloride. After stirring for 1 hour at ambient temperature, the methylene chloride is removed under vacuum and 40 ml of methanol is added with warming to dissolve all solids. The resulting solution is poured into cold water, agitated for 30 minutes, filtered and washed with cold water, and the isolated material is dried in a vacuum oven to provide (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-nitrobenzenesulfonamide (11.3 g) as a tan solid. MS: m/z (E1, 70EV) 375(10%). 1H NMR (200 MHz; CDCl3): δ 0.95 (3H, t, CH3), 1.7 (2H, m, CH2), 2.85 (2H, m, CH2), 3.5 (1H, m, CH), 6.65 (1H, d, CH), 7.0 (1H, d, CH), 7.9 (2H, d, Ph), 8.2 (2H, d, Ph).

reactant | 3-chloro-2-(2-aminobutyl)thiophene | Six grams | ClC1=C(SC=C1)CC(CC)N | C8H12ClNS
reactant | Triethylamine | 6.6 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzenesulfonyl chloride | 7.8 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-N-[1-[(3-chlorothien-2-yl)methyl]propyl]-4-nitrobenzenesulfonamide | 11.3 g | ClC1=C(SC=C1)C[C@@H](CC)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H15ClN2O4S2
